US07723330B2
Step C: Preparation of 2-(cyclohexylmethyl)-5-(3-fluoro-4-hydroxyphenyl)-3-methylpyrimidin-4(3H)-one:
A solution of 5-(4-(benzyloxy)-3-fluorophenyl)-2-(cyclohexylmethyl)-3-methylpyrimidin-4(3H)-one (0.046 g, 0.11 mmol) in TFA (2 mL) was stirred at 40° C. for 2.5 hours. The reaction mixture was cooled to room temperature and concentrated to dryness. The crude product was purified by flash column chromatography, eluting with 20:1 CH2Cl2/MeOH. The product was obtained (0.026 g; 73%) as a white foamy solid. LRMS (APCI pos) m/e 317 (M+1).

reactant | 5-(4-(benzyloxy)-3-fluorophenyl)-2-(cyclohexylmethyl)-3-methylpyrimidin-4(3H)-one | 0.11 mmol, 0.046 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(N(C(=NC1)CC1CCCCC1)C)=O)F | C25H27FN2O2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(cyclohexylmethyl)-5-(3-fluoro-4-hydroxyphenyl)-3-methylpyrimidin-4(3H)-one | C1(CCCCC1)CC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)O)F | C18H21FN2O2
